US05284852
2-Butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde
To a solution of 0.3 g of 2-butyl-6-(hydroxymethyl)-4(1H)-quinazolinone in 3.5 ml of dry N,N-dimethylformamide is added 1.7 g of pyridinium dichromate. The reaction mixture is stirred at room temperature for 16 hours and then poured into 125 ml of water. The resulting precipitate is removed by filtration and the filtrate extracted with 9:1 chloroform-methanol. The combined organic extracts are dried over magnesium sulfate, filtered and concentrated in vacuo and combined with the precipitate above. The combined solids are purified by flash chromatography on silica gel by eluting with 1:1 ethyl acetate-hexanes to give 0.27 g of the desired product. CI MASS SPEC 231(MH+).

reactant | 2-butyl-6-(hydroxymethyl)-4(1H)-quinazolinone | 0.3 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)CO | C13H16N2O2
reactant | pyridinium dichromate | 1.7 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | water | 125 ml | O | H2O
solvent | N,N-dimethylformamide | 3.5 ml | CN(C=O)C | C3H7NO
product | 2-Butyl-1,4-dihydro-4-oxo-6-quinazolinecarboxaldehyde | 0.27 g | C(CCC)C=1NC2=CC=C(C=C2C(N1)=O)C=O | C13H14N2O2
